US04028385
Following the same procedures as in Example 26, a mixture of 1184 g. of n-butyl orthoacetate, 220 g. of nerolidol and 22 g. of hydroquinone was reacted with heating at 160° - 165° C., with removal of n-butanol produced from the reaction system. The reaction mixture was directly distilled in vacuo to give 598 g of n-butyl farnesylacetate, b.p. 134° - 142° C. (0.3 mmHg). Then, this product was fractionated through a rectifying column with 40 numbers of theoretical plates reflux ratio of 20 to give 147.5 g of n-butylΔ 4,8 -trans-farnesylacetate, b.p. 140° - 142° C. (0.3 mmHg). 64% of Δ4,8 -trans-isomer introduced was recovered on distillation.

reactant | n-butyl orthoacetate | C(C)(OCCCC)([O-])[O-]
reactant | nerolidol | OC(C)(C=C)CCC=C(C)CCC=C(C)C | C15H26O
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | n-butanol | C(CCC)O | C4H10O
product | n-butyl farnesylacetate | 598 g | C(C=C(C)CCC=C(C)CCC=C(C)C)CC(=O)OCCCC | C21H36O2
